USRE030495
Preparation of 1(3'-Butylthiocarbamylphenyl)3,3-dimethyl urea
Ten and eight-tenths grams of 1(3'-amino phenyl) 3,3-dimethyl urea is dissolved in 100 ml. of acetone and 7.1 g. of triethylamine is added. Nine and two-tenths grams of t-butylchlorothiolformate is added dropwise with stirring. When reaction is complete, the mixture is poured into water and a viscious oil precipitated. The product is taken up in methylene dichloride and washed with dilute HCl and dried over magnesium sulfate. The methylene chloride is taken off under vacuum, leaving a solid foam. There is obtained 15.9 g., m.p. 68°-71° C., of the title compound.

reactant | 1(3'-amino phenyl) 3,3-dimethyl urea | NC=1C=C(C=CC1)NC(=O)N(C)C | C9H13N3O
reactant | acetone | CC(=O)C | C3H6O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorothiolformate | C(C)(C)(C)C=1C(=C(SC1)C(=O)[O-])Cl
solvent | water | O | H2O
product | 1(3'-Butylthiocarbamylphenyl)3,3-dimethyl urea | C(CCC)NC(=S)C=1C=C(C=CC1)NC(=O)N(C)C | C14H21N3OS
